US05158956
A. 2-Dimethylamino-8-bromo-1,2,3,4-tetrahydronaphthalene
To a solution of 8-bromo-2-tetralone (4.5 gm, 20 mMol) in acetonitrile (100 mL) were added sodium acetate (9.9 gm, 120 mMol), sodium cyanoborohydride (880 mg, 120 mMol), dimethylamine hydrochloride (9.8 gm, 120 mMol) and 4A sieves (2.0 gm). The mixture was stirred at room temperature for 3 days. The reaction mixture was then filtered through a bed of celite, and the filtrate was poured into a slurry of ice and water. The solution was made acidic (HCl) and extracted well with diethyl ether. The remaining aqueous was made basic (NH4OH) and extracted well with dichloromethane. These organic phases were combined, dried (Na2SO4), and concentrated in vacuo to give a dark oil. Purification by flash chromatography (5% methanol in dichloromethane+tr. NH4OH) gave the title compound as a yellow oil (1.5 gm, 30%).

reactant | 8-bromo-2-tetralone | 20 mMol, 4.5 gm | BrC=1C=CC=C2CCC(CC12)=O | C10H9BrO
reactant | sodium acetate | 120 mMol, 9.9 gm | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 120 mMol, 880 mg | C(#N)[BH3-].[Na+]
reactant | dimethylamine hydrochloride | 120 mMol, 9.8 gm | Cl.CNC
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-Dimethylamino-8-bromo-1,2,3,4-tetrahydronaphthalene | 1.5 gm, 30% | CN(C1CC2=C(C=CC=C2CC1)Br)C | C12H16BrN
